US07244730B2
(Step 3) (6-Methyl-3-pyridyl)methyl azide
NaN3 (11.2 g, 172 mmol) was added to a solution of the 5-(chloromethyl)-2-methylpyridine (12.2 g, 86.2 mmol) in dimethylformamide (120 ml) while cooling on ice and the mixture was stirred at the same temperature for 1 hour and then at room temperature for 2 hours. The reaction mixture was poured into semi-saturated aqueous sodium hydrogencarbonate, extraction was performed with ethyl acetate and the extract was washed with water and saturated aqueous NaCl. After drying with anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (8.9 g, 26%, two steps) as a colorless oil.

reactant | NaN3 | 172 mmol, 11.2 g | [N-]=[N+]=[N-].[Na+]
reactant | 5-(chloromethyl)-2-methylpyridine | 86.2 mmol, 12.2 g | ClCC=1C=CC(=NC1)C | C7H8ClN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | (6-Methyl-3-pyridyl)methyl azide | 8.9 g, 26% | CC1=CC=C(C=N1)CN=[N+]=[N-] | C7H8N4
